US08242145B2
Step 3: (3-{2-[((1S,2R)-2-Hydroxy-indan-1-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 45, Step 3, using the following starting materials: [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and (1S,2R)-(−)-cis-1-amino-2-indanol.

reactant | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O4
reactant | (1S,2R)-(−)-cis-1-amino-2-indanol | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
product | (3-{2-[((1S,2R)-2-Hydroxy-indan-1-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN[C@@H]1[C@@H](CC2=CC=CC=C12)O)=O | C26H24F3NO4
